US07772253B2
N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-6-dimethylamino-nicotinamide
The title compound (11 mg, 26%) was prepared analogously to example 1 by coupling of 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine with 6-dimethylamino nicotinic acid (J. Org. Chem. 1999, 9, 2293). MS: 417.4 (MH+)

reactant | 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
reactant | 6-dimethylamino nicotinic acid | CN(C1=NC=C(C(=O)O)C=C1)C | C8H10N2O2
product | N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-6-dimethylamino-nicotinamide | 11 mg, 26% | ClC1=C(C=C(CN2CCC(CC2)NC(C2=CN=C(C=C2)N(C)C)=O)C=C1)OCC | C22H29ClN4O2
